US09145380B2
2-[[3-(3,4-Dichlorophenyl)phenyl]sulfonylamino]-5-phenoxybenzenesulfonamide
To a solution of 2-(3-bromophenylsulfonamido)-5-phenoxybenzenesulfonamide (241.5 mg, 0.5 mmol), 3,4-dichlorobenzeneboronic acid (190.8 mg, 1.0 mmol), tricyclohexyl phosphine (50 mg, 0.18 mmol) and potassium phosphate (340 mg, 1.6 mmol) in DMF (10 mL), was added Pd(OAc)2 (20 mg, 0.09 mmol). The reaction mixture was stirred at 80° C. for 7 h, diluted with 1N HCl and the product was extracted with ethyl acetate. The organic phase was separated, dried over sodium sulfate and concentrated in vacuo. The crude product was purified by flash column chromatography using ethyl acetate/hexane (1:1) to afford the title compound (42 mg, 15%).

reactant | 2-(3-bromophenylsulfonamido)-5-phenoxybenzenesulfonamide | 0.5 mmol, 241.5 mg | BrC=1C=C(C=CC1)S(=O)(=O)NC1=C(C=C(C=C1)OC1=CC=CC=C1)S(=O)(=O)N | C18H15BrN2O5S2
reactant | 3,4-dichlorobenzeneboronic acid | 1.0 mmol, 190.8 mg | ClC=1C=C(C=CC1Cl)B(O)O | C6H5BCl2O2
reactant | tricyclohexyl phosphine | 0.18 mmol, 50 mg | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
reactant | potassium phosphate | 1.6 mmol, 340 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | HCl | 1N | Cl | ClH
catalyst | Pd(OAc)2 | 0.09 mmol, 20 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 2-[[3-(3,4-Dichlorophenyl)phenyl]sulfonylamino]-5-phenoxybenzenesulfonamide | 42 mg, 15% | ClC=1C=C(C=CC1Cl)C=1C=C(C=CC1)S(=O)(=O)NC1=C(C=C(C=C1)OC1=CC=CC=C1)S(=O)(=O)N | C24H18Cl2N2O5S2
